US08217043B2
b) Benzyl-pyrrol-1-yl-carbamic acid tert-butyl ester
Sodium hydride (313 mg, 7.83 mmol, 60% purity in mineral oil) was added in one portion to a stirred, ice/water-cooled solution of pyrrol-1-yl-carbamic acid tert-butyl ester (951 mg, 5.22 mmol) and benzyl bromide (745 μL, 6.26 mmol) in DMF (20 mL); the mixture was stirred in the cold bath for 30 min, at which time TLC showed complete disappearance of starting material; then poured into diluted, cold ammonium chloride solution to quench the reaction, followed by extraction with EtOAc, then washed with water, and brine; then the organic phase was dried over anhydrous sodium sulfate, filtered, concentrated, and the residue was silica gel column purified to give desired product (1.376 g) as a clear oil. ESI (m/z): 273 (M+H)+.

reactant | Sodium hydride | 7.83 mmol, 313 mg | [H-].[Na+]
reactant | pyrrol-1-yl-carbamic acid tert-butyl ester | 5.22 mmol, 951 mg | C(C)(C)(C)OC(NN1C=CC=C1)=O | C9H14N2O2
reactant | benzyl bromide | 6.26 mmol, 745 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Benzyl-pyrrol-1-yl-carbamic acid tert-butyl ester | 1.376 g | C(C)(C)(C)OC(N(N1C=CC=C1)CC1=CC=CC=C1)=O | C16H20N2O2
